US06919331B2
A solution of 1-[5-(benzhydrylidene-amino)-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one (32 mg, 0.06 mmol) in 0.5 M HCl-THF was stirred at ambient temperature for 1 h. The solvent was evaporated and the residue purified by prep-HPLC (gradient 10%-100% B) to give 20 mg (85%) of 1-[5-amino-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one as a white solid.

reactant | 1-[5-(benzhydrylidene-amino)-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | 0.06 mmol, 32 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C36H37N5O
solvent | HCl THF | 0.5 M | Cl.C1CCOC1
product | 1-[5-amino-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | 20 mg, 85% | NC1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C23H29N5O
